US07592362B2
Chloromethyl cyclopropylmethyl carbonate
To a solution of cyclopropylmethanol (0.39 ml, 5.0 mmol) and pyridine (0.40 ml, 5.0 mmol) in dichloromethane (4 ml), at 0° C. and under nitrogen, was added dropwise chloromethyl chlorocarbonate (0.40 ml, 4.5 mmol). The reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 2 h. To the mixture was added diethyl ether (15 ml) and the solid material was collected by filtration and washed with diethyl ether (10 ml). The combined organic phases were dried (MgSO4) and concentrated in vacuo to give the title compound (725 mg) which was used directly.

reactant | cyclopropylmethanol | 5.0 mmol, 0.39 ml | C1(CC1)CO | C4H8O
reactant | pyridine | 5.0 mmol, 0.40 ml | N1=CC=CC=C1 | C5H5N
reactant | chloromethyl chlorocarbonate | 4.5 mmol, 0.40 ml | C(OCCl)(=O)Cl | C2H2Cl2O2
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Chloromethyl cyclopropylmethyl carbonate | 725 mg | C(OCCl)(OCC1CC1)=O | C6H9ClO3
